* C:\Users\DELL\eSim-Workspace\comparator\comparator.cir

.lib "sky130_fd_pr/models/sky130.lib.spice" ff


xM2  Net-_M1-Pad1_ CLK vdd vdd sky130_fd_pr__pfet_01v8 w=3 l=1		
xM1  Net-_M1-Pad1_ CLK GND GND sky130_fd_pr__nfet_01v8 w=0.5 l=0.5		
xM13  Net-_M13-Pad1_ Net-_M1-Pad1_ vdd vdd sky130_fd_pr__pfet_01v8 w=3 l=1		
xM3  vouth voutl Net-_M13-Pad1_ vdd sky130_fd_pr__pfet_01v8 w=3 l=1		
xM6  voutl vouth Net-_M13-Pad1_ vdd sky130_fd_pr__pfet_01v8 w=3 l=1		
xM14  Net-_M14-Pad1_ vouth Net-_M14-Pad3_ vdd sky130_fd_pr__pfet_01v8 w=3 l=0.5		
xM16  Net-_M14-Pad3_ Net-_M14-Pad1_ vdd vdd sky130_fd_pr__pfet_01v8 w=3 l=0.5		
xM18  Net-_M18-Pad1_ voutl Net-_M14-Pad3_ vdd sky130_fd_pr__pfet_01v8 w=3 l=0.5		
xM20  vout Net-_M18-Pad1_ vdd vdd sky130_fd_pr__pfet_01v8 w=3 l=0.5		
xM4  voutl vouth Net-_M10-Pad1_ GND sky130_fd_pr__nfet_01v8 w=0.5 l=0.5		
xM8  vouth voutl Net-_M11-Pad1_ Net-_M8-Pad4_ sky130_fd_pr__nfet_01v8 w=0.5 l=0.5		
xM9  vouth Net-_M1-Pad1_ voutl Net-_M8-Pad4_ sky130_fd_pr__nfet_01v8 w=0.5 l=0.5		
xM10  Net-_M10-Pad1_ vinh Net-_M10-Pad3_ GND sky130_fd_pr__nfet_01v8 w=0.5 l=0.5		
xM5  Net-_M10-Pad1_ vrefl Net-_M10-Pad3_ GND sky130_fd_pr__nfet_01v8 w=0.5 l=0.5		
xM12  Net-_M10-Pad3_ CLK GND GND sky130_fd_pr__nfet_01v8 w=0.5 l=0.5		
xM11  Net-_M11-Pad1_ vrefh Net-_M10-Pad3_ GND sky130_fd_pr__nfet_01v8 w=0.5 l=0.5		
xM7  Net-_M11-Pad1_ vinl Net-_M10-Pad3_ GND sky130_fd_pr__nfet_01v8 w=0.5 l=0.5		
xM15  Net-_M14-Pad1_ vouth Net-_M15-Pad3_ GND sky130_fd_pr__nfet_01v8 w=0.5 l=0.5		
xM17  Net-_M15-Pad3_ Net-_M14-Pad1_ vss GND sky130_fd_pr__nfet_01v8 w=0.5 l=0.5		
xM19  Net-_M18-Pad1_ voutl Net-_M15-Pad3_ GND sky130_fd_pr__nfet_01v8 w=0.5 l=0.5		
xM21  vout Net-_M18-Pad1_ vss GND sky130_fd_pr__nfet_01v8 w=0.5 l=0.5		


Vdd vdd 0 3.3
Vss vss 0 -3.3
VClk CLK 0 SINE(0 3.3 250000 0 0 180)
Vinh vinh 0 SINE(0 2.3 250000 0 0 0)
Vinl vinl 0 SINE(0 2.3 250000 0 0 180)
Vrefh vrefh 0 SINE(0 1.8 250000 0 0 0)
Vrefl vrefl 0 SINE(0 1.8 250000 0 0 180)

.tran 100ns 80us
.control
run
plot V(vinh) V(vouth) V(vout)
.endc
.end